US07491724B2
Part 2. Tert-butyl 4-(4-hydroxy-3,5-dimethylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate
Nitrogen was bubbled through a mixture of tert-butyl 4-[(trifluoromethyl)sulfonyl]oxy-3,6-dihydropyridine-1(2H)-carboxylate (5.80 g, 0.0175 mol), 2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (4.82 g, 0.0194 mol) and potassium carbonate (7.26 g, 0.0525 mol) in N, N-dimethylformamide (50.0 mL, 0.646 mol) for 10 min. To the reaction mixture was then added [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (1:1) (0.8 g, 0.001 mol). The resultant mixture was heated at at 80 Celsius overnight. After quenched with water, the mixture was neutralized with 1N HCl, extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried and evaporated to dry. The residue was applied on coloumn, eluting with 0 to 50% EtOAc in hexane, to yield the desired product (4.36 g, 82.09%). MS (ESI): (M−Boc+2) 204.0.

reactant | tert-butyl 4-[(trifluoromethyl)sulfonyl]oxy-3,6-dihydropyridine-1(2H)-carboxylate | 0.0175 mol, 5.80 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | 2,6-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.0194 mol, 4.82 g | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)O | C14H21BO3
reactant | potassium carbonate | 0.0525 mol, 7.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | N, N-dimethylformamide | 0.646 mol, 50.0 mL | CN(C=O)C | C3H7NO
reactant | dichloromethane | 0.001 mol, 0.8 g | ClCCl | CH2Cl2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Tert-butyl 4-(4-hydroxy-3,5-dimethylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate | 4.36 g, 82.09% | OC1=C(C=C(C=C1C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C18H25NO3
